US07049438B2
A solution of di-tert-butyl azodicarboxylate (1.75 g ) in methylene chloride (3 ml) was added to a stirred mixture of 5-hydroxy-6-methoxy-3-pivaloyloxymethyl-3,4-dihydroquinazolin-4-one (1.55 g), triphenylphosphine (1.99 g), 4-hydroxy-1-methylpiperidine (0.75 g) and methylene chloride (12 ml) which had been cooled to 5° C. The mixture was stirred at ambient temperature for 1 hour. The mixture was evaporated and the residue was purified by column chromatography on silica using a 9:10:1 mixture of methylene chloride, ethyl acetate and a saturated methanolic ammonia solution as eluent. The material so obtained was stirred in a saturated methanolic ammonia solution for 48 hours. The mixture was evaporated and the residue was triturated under diethyl ether. The resultant solid was washed with diethyl ether and dried under vacuum to give 6-methoxy-5-(N-methylpiperidin-4-yloxy)-3,4-dihydroquinazolin-4-one (0.92 g); NMR Spectrum: (DMSOd6) 1.7–1.9 (m, 4H), 1.95 (t, 2H), 2.15 (s, 3H), 2.7 (m, 2H), 3.85 (s, 3H), 4.08 (m, 1H), 7.4 (d, 1H), 7.6 (d, 1H), 7.85 (s, 1H), 11.8 (br s, 1H); Mass Spectrum: M+H+ 290.

reactant | di-tert-butyl azodicarboxylate | 1.75 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 5-hydroxy-6-methoxy-3-pivaloyloxymethyl-3,4-dihydroquinazolin-4-one | 1.55 g | OC1=C2C(N(C=NC2=CC=C1OC)COC(C(C)(C)C)=O)=O | C15H18N2O5
reactant | triphenylphosphine | 1.99 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxy-1-methylpiperidine | 0.75 g | OC1CCN(CC1)C | C6H13NO
reactant | ammonia | N | H3N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxy-5-(N-methylpiperidin-4-yloxy)-3,4-dihydroquinazolin-4-one | 0.92 g | COC=1C(=C2C(NC=NC2=CC1)=O)OC1CCN(CC1)C | C15H19N3O3
